US08729105B2
Preparation of (S)-5-(4-chlorophenyl)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinamide
The title compound was synthesized in analogy to Example 1, using (S)-5-(4-chlorophenyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinic acid (Example AO) and C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride (CAS registry No. 944905-93-5; example AK) as starting materials; MS: 493.1 (M−H)−.

reactant | (S)-5-(4-chlorophenyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)O[C@H](C(F)(F)F)C | C15H11ClF3NO3
reactant | C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride | Cl.FC(C1=NOC(=N1)CN)(F)F
product | (S)-5-(4-chlorophenyl)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)O[C@H](C(F)(F)F)C | C19H13ClF6N4O3
